* 
* This unencrypted file has been supplied by
* Toshiba Electronic Devices & Storage Corporation
* that does not wish to publicize the technology
* used to implement this library.
* 
* Permission is granted to use this file for
* simulations but not to reverse engineer its
* contents.
* When using Simulation Model, please be sure to
* visit "Simulation" page and re-confirm
* Restrictions on Usage, Limitations and others in
* "Cautions on Simulation Model" on Toshiba Electronic
* Devices & Storage Corporation website.
*
*********************************************************************************
* (C) Copyright 2025 Toshiba Electronic Devices & Storage Corporation
* Date            : 23/12/2025
* File Name       : TK6R8A08QM_G0_00_PSpice_rev1.lib
* Part Number     : TK6R8A08QM_G0_00
* Parameter Rev.  : 1
* Simulator       : PSpice
* Model Call Name : TK6R8A08QM_G0_00
* TNOM            : 25 degree
* Pin Assign      : 1=Drain 2=Gate 3=Source
*
* Operation of this model has been verified only on the PSpice
*********************************************************************************
.SUBCKT TK6R8A08QM_G0_00 1 2 3
M0 1 22 3 3 smsmosfet
+ L=1e-06
+ W=2.4
+ AD=2.4E-006
+ AS=2.4E-006
+ PD=4.8
+ PS=4.8
D0 3 1 DDS1
D1 3 1 DDS2
D2 2 10 DGS1
D3 3 10 DGS2
R2 10 2 1E+009
R3 10 3 1E+009
RG 2 22 1.4
.MODEL smsmosfet NMOS
+ LEVEL=7
+ MOBMOD=1
+ CAPMOD=3
+ NOIMOD=1
+ TOX=3e-08
+ XJ=1.5E-007
+ NCH=1.7E+017
+ NGATE=0
+ RSH=0
+ TNOM=25
+ VTH0=3.725
+ VOFF=-0.11
+ NFACTOR=2.45
+ U0=2800
+ K1=0.5
+ K2=0
+ K3=80
+ K3B=0
+ W0=2.5E-006
+ NLX=1.74E-007
+ DVT0=2.2
+ DVT1=0.53
+ DVT2=-0.032
+ DVT0W=0
+ DVT1W=5.3E+006
+ DVT2W=-0.032
+ DWG=0
+ DWB=0
+ UA=7.0876e-09
+ UB=5.87E-019
+ UC=-4.65E-011
+ VSAT=59749.6033
+ A0=7.103
+ AGS=1.0545
+ B0=0
+ B1=0
+ KETA=-0.047
+ A1=0
+ A2=1
+ DELTA=0.056296
+ RDSW=10600
+ PRWG=0
+ PRWB=0
+ WR=1
+ CDSC=2.4E-004
+ CDSCD=0
+ CDSCB=0
+ CIT=0
+ ETA0=0.08
+ ETAB=-0.07
+ DSUB=0.56
+ PCLM=1e-05
+ PDIBLC1=0.12057
+ PDIBLC2=0.002022
+ PDIBLCB=0
+ DROUT=0.56
+ PSCBE1=4.24E+008
+ PSCBE2=1E-009
+ PVAG=0
+ ALPHA0=0
+ ALPHA1=0
+ BETA0=30
+ NJ=1
+ JS=0
+ XPART=0
+ CGSO=8.5e-10
+ CGDO=5e-12
+ CGBO=0
+ CGDL=7.62e-10
+ CGSL=1e-11
+ CKAPPA=0.16
+ CF=0
+ CLC=1E-007
+ CLE=0.6
+ VOFFCV=0
+ NOFF=1
+ DLC=0
+ ACDE=1
+ MOIN=15
+ CJ=0
+ CJSW=1E-012
+ CJSWG=1E-012
+ PB=1
+ PBSW=1
+ PBSWG=1
+ MJ=0.5
+ MJSW=0.33
+ MJSWG=0.33
+ AF=1
+ EF=1
+ KF=0
+ UTE=-1.4
+ KT1=-1.16
+ KT1L=0
+ KT2=0.022
+ UA1=4.31E-009
+ UB1=-7.61E-018
+ UC1=-5.6E-011
+ AT=33000
+ PRT=16600
+ XTI=3
+ TCJ=0
+ TPB=0
+ TCJSW=0
+ TPBSW=0
+ TCJSWG=0
+ TPBSWG=0
+ DWC=0.522
.MODEL DDS1 D
+ TNOM=25
+ IS=4.2142e-10
+ RS=0.0041228
+ N=1.2856
+ CJO=1.65e-09
+ VJ=1.5
+ M=0.38
+ XTI=0
+ TT=2.55e-08
+ BV=88
+ IBV=0.01
.MODEL DDS2 D
+ TNOM=25
+ IS=4.2142e-10
+ RS=0.0041228
+ N=1.2856
+ CJO=1E-15
+ VJ=0.7
+ M=0.3
+ XTI=0
+ TT=2.55e-08
.MODEL DGS1 D
+ TNOM=25
+ IS=1E-015
.MODEL DGS2 D
+ TNOM=25
+ IS=1E-015
.ENDS





